US07517994B2
Step C: Preparation of 4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid:
To a suspension of 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid (200 mg, 0.99 mmol) and 2-fluoro-4-iodoaniline (478 mg, 1.97 mmol) in THF (6.5 mL) at −78° C. was slowly added a solution of LiHMDS (3.00 mL, 3.00 mmol, 1 M solution in THF). After complete addition, the resulting mixture was slowly warmed to room temperature and stirred for 4 hours. The reaction mixture was quenched with 6 N aqueous HCl (8 mL) at 0° C., warmed to room temperature, and stirred for 1.5 hours. The precipitates were filtered, washed with water and ether, and triturated with ether to afford 158 mg (38%) of the desired product.

reactant | 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 0.99 mmol, 200 mg | ClC=1C(=NN(C(C1C)=O)C)C(=O)O | C7H7ClN2O3
reactant | 2-fluoro-4-iodoaniline | 1.97 mmol, 478 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | LiHMDS | 3.00 mmol, 1 M, 3.00 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 158 mg, 38% | FC1=C(C=CC(=C1)I)NC=1C(=NN(C(C1C)=O)C)C(=O)O | C13H11FIN3O3
